US07244740B2
b) 8-Chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridine
To a solution of 3-chloro-2-pyridinamine (4.8 g, 37.4 mmol) and 2-bromo-1-(3-methoxyphenyl)ethanone (8.56 g, 37.4 mmol) in ethanol (30 mL) was added potassium carbonate (5.15 g, 37.4 mmol) and the resultant solution was heated at reflux for 17 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo. The resultant residue was taken up in dichloromethane, washed with water and then brine. The aqueous layer was extracted with dichloromethane and the combined organics dried over magnesium sulfate. Filtration and concentration followed by recrystallization of the residue from ethyl acetate-hexanes reulted in 8-chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridine (6.7 g, 70%) as a tan powder. 1H NMR (CDCl3): δ 8.03 (d, 1 H), 7.89 (s, 1 H), 7.57–7.52 (m, 2 H), 7.33 (t, 1 H), 7.23 (d, 1 H), 6.89 (dd, 1 H), 6.71 (t, 1 H), 3.89 (s, 3 H); 13C NMR (CDCl3): δ 159.94, 146.31, 142.96, 134.61, 129.65, 124.30, 123.58, 123.26, 118.81, 114.33, 112.02, 111.44, 109.91, 55.39; MS m/z 259 (M+1); Anal. Calcd for C14H11ClN2O: C, 64.93; H, 4.29; N, 10.83. Found: C, 64.58; H, 4.51; N, 10.52.

reactant | 3-chloro-2-pyridinamine | 37.4 mmol, 4.8 g | ClC=1C(=NC=CC1)N | C5H5ClN2
reactant | 2-bromo-1-(3-methoxyphenyl)ethanone | 37.4 mmol, 8.56 g | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
reactant | potassium carbonate | 37.4 mmol, 5.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 8-Chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridine | ClC=1C=2N(C=CC1)C=C(N2)C2=CC(=CC=C2)OC | C14H11ClN2O
